US07902369B2
1) Manufacture of 6-bromo-2-methylisoquinoline-1-one
Under nitrogen atmosphere, 60% sodium hydrogenate (18 mg) was added at 0° C. to 2 ml solution of dimethylformamide with 100 mg of 6-bromo-2H-isoquinoline-1-one, and the mixture was stirred for 30 min. Then, 0.03 ml of methyl iodide was added at 0° C., stirred at room temperature for 2 hours. Cold water was added to the reaction solution, extracted with chloroform. Chloroform layer was washed with saturated saline solution, dried with anhydrous sodium sulfate. After distilling out the solvents under reduced pressure, residues were separated and purified by preparative thin-layer chromatography (hexane/ethyl acetate=3/1) to obtain 24 mg of the above compound as a white solid.

reactant | sodium | 18 mg | [Na] | Na
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 6-bromo-2H-isoquinoline-1-one | 100 mg | BrC=1C=C2C=CNC(C2=CC1)=O | C9H6BrNO
reactant | methyl iodide | 0.03 ml | CI | CH3I
solvent | water | O | H2O
product | 6-bromo-2-methylisoquinoline-1-one | 24 mg | BrC=1C=C2C=CN(C(C2=CC1)=O)C | C10H8BrNO
